US04673746
A mixture of 28 g of 3-chloro-2',5'-difluoro-2-hydroxy-4-methoxybenzophenone and 26 g of hydroxylamine HCl in 250 ml pyridine is refluxed for three hours. Pyridine is evaporated and the residue partitioned between ethyl acetate and 5% HCl. The ethyl acetate extract is washed with water, dried over Na2SO4 and evaporated to give a solid product as a mixture of isomers. The solid is heated at 200°-210° C. for approximately 30-45 minutes and recrystallized from toluene giving E-3-chloro-2',5'-difluro-2-hydroxy-4-methoxybenzophenone oxime, mp 209°-210° C.

reactant | 3-chloro-2',5'-difluoro-2-hydroxy-4-methoxybenzophenone | 28 g | ClC=1C(=C(C(=O)C2=C(C=CC(=C2)F)F)C=CC1OC)O | C14H9ClF2O3
reactant | hydroxylamine HCl | 26 g | Cl.NO
solvent | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
product | E-3-chloro-2',5'-difluro-2-hydroxy-4-methoxybenzophenone oxime | ClC=1C(=C(\C(\C2=C(C=CC(=C2)F)F)=N/O)C=CC1OC)O | C14H10ClF2NO3
